US04036988
6.3 gm (0.02 mol) of 1-(2-cyano-4-chlorophenoxy)-3-hydroxy-3-tert.-butylamino propane hydrochloride were dissolved in 100 ml of methanol containing 10 ml of NH3 and the mixture was hydrogenated under normal pressure at 20° C. over Raney-nickel. After separation of the catalyst, the solvent was distilled off in vacuo, and the residue was admixed with ether and water. After an addition of a small amount of NaOH, the aqueous phase was separated and the organic phase was washed with water and dried over MgSO4. After distilling off the ether, a solid residue remained which was recrystallized from ethyl acetate with an addition of petroleum ether to obtain 1-(2-aminomethyl-4-chlorphenoxy)-2-hydroxy-3-tert.-butylamino propane. The base was dissolved in ethanol and ethereal HCl was added thereto. The precipitated crystals of the hydrochloride of the base were isolated to obtain 3.1 gm of the hydrochloride having a melting point of 118°-120° C.

reactant | 1-(2-cyano-4-chlorophenoxy)-3-hydroxy-3-tert.-butylamino propane hydrochloride | 0.02 mol, 6.3 gm | Cl.C(#N)C1=C(OCCC(NC(C)(C)C)O)C=CC(=C1)Cl
reactant | methanol | 100 ml | CO | CH4O
solvent | NH3 | N | H3N
catalyst | Raney-nickel | [Ni] | Ni
product | 1-(2-aminomethyl-4-chlorphenoxy)-2-hydroxy-3-tert.-butylamino propane | NCC1=C(OCC(CNC(C)(C)C)O)C=CC(=C1)Cl | C14H23ClN2O2
